US09216964B2
To a reaction tube under argon containing 3-methyl-2,2′-bipyridin-6-amine (20 mg, 0.11 mmol), 5-bromo-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline (35 mg, 0.11 mmol), Pd2(dba)3 (11 mg, 0.011 mmol), xantphos (20 mg, 0.022 mmol), potassium phosphate (66 mg, 0.33 mmol) is added anhydrous dioxane (0.6 ml). The mixture is stirred at 96° C. for 18 hours, cooled to room temperature and filtered through a celite pad to remove any solids. The filtrate is concentrated and purified by preparative HPLC to afford N-(3-methyl-2,2′-bipyridin-6-yl)-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinolin-5-amine as a white solid. LC-MS m/z: 423.2 (M+1); 1H NMR 400 MHz (CDCl3) δ 8.69 (d, 1H, J=5.2 Hz), 7.78 (td, 1H, J=1.6, 7.6 Hz), 7.68 (d, 1H, J=8.0 Hz), 7.39 (d, 1H, J=8.4 Hz), 7.32-7.24 (m, 3H), 7.13 (t, 1H, J=7.6 Hz), 6.79 (d, 1H, J=7.6 Hz), 6.72 (d, 1H, J=8.4 Hz), 6.19 (s, 1H), 3.69 (s, 2H), 3.22-3.20 (m, 2H), 3.03 (t, 2H, J=6.4 Hz), 2.99 (s, 3H), 2.80-2.74 (m, 4H), 2.32 (s, 3H).

reactant | 3-methyl-2,2′-bipyridin-6-amine | 0.11 mmol, 20 mg | CC=1C(=NC(=CC1)N)C1=NC=CC=C1 | C11H11N3
reactant | 5-bromo-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline | 0.11 mmol, 35 mg | BrC1=C2CCN(CC2=CC=C1)CCS(=O)(=O)C | C12H16BrNO2S
reactant | xantphos | 0.022 mmol, 20 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 0.33 mmol, 66 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.011 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
product | N-(3-methyl-2,2′-bipyridin-6-yl)-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinolin-5-amine | CC=1C(=NC(=CC1)NC=1C=2CCN(CC2C=CC1)CCS(=O)(=O)C)C1=NC=CC=C1 | C23H26N4O2S
